US07601716B2
3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(tetrahydrofuran-2-ylmethyl)benzamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-(aminomethyl)tetrahydrofuran as in General Procedure 10 to give the title compound. LCMS: m/z=530.97 (M+H+); retention time=0.81 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-(aminomethyl)tetrahydrofuran | NCC1OCCC1 | C5H11NO
product | 3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(tetrahydrofuran-2-ylmethyl)benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)NCC2OCCC2)C=CC3)C1)C(F)(F)F | C27H26ClF3N4O2
